US06307047B1
2-(3-Methyl-2-butenyl)-4-(4-fluorophenyl)-5-[3-fluoro-4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
2-Benzyl-4-(4-fluorophenyl)-5-[3-fluoro-4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone, prepared according to the method of Example 68, was N-debenzylated according to the method of Example 11. The intermediate was N-alkylated according to the method of Example 20, substituting 1-bromo-3-methyl-2-butene in place of 4-fluorobenzyl bromide, to provide the title compound (yield: 50 mg, 30%). mp 134-136° C. 1H NMR (300 MHz, CDCl3) δ 1.79 (s, 3H), 1.86 (s, 3H), 4.78 (s, 2H), 4.85 (d, J=7.5 Hz, 2H), 5.48 (t, J=6 Hz, 1H), 6.96 (t, J=9 Hz, 2H), 7.18 (dd, J=9 Hz, 6 Hz, 2H), 7.28 (d, J=9 Hz, 2H), 7.83 (s, 1H), 7.85 (d, J=9 Hz, 2H). MS (DCI/NH3) m/z 414 (M+H)+. Anal. calc. for C21H20FN3O3S: C, 61; H, 4.87; N, 10.16. Found: C, 60.98; H, 4.66; N, 9.95.

reactant | 2-Benzyl-4-(4-fluorophenyl)-5-[3-fluoro-4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC(=C(C=C1)S(=O)(=O)N)F | C23H17F2N3O3S
reactant | 1-bromo-3-methyl-2-butene | BrCC=C(C)C | C5H9Br
product | 2-(3-Methyl-2-butenyl)-4-(4-fluorophenyl)-5-[3-fluoro-4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | yield: 50 mg, 30% | CC(=CCN1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC(=C(C=C1)S(=O)(=O)N)F)C | C21H19F2N3O3S
